US08119666B2
J. 5-(4-Benzyl-2-benzyloxyphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A mixture of 5-(4-benzyl-2-benzyloxyphenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (1.1 g, 2.16 mmol) and TBAF (1.0 M solution in THF, 4.0 mL, 4 mmol) is heated at 50° C. for 18 h. After THF is removed under reduced vacuum, KHCO3 solution (0.50 M, 10 mL) is added, followed by water (10-15 mL). The residue is allowed to coat the glassware and the water is decanted. The residue is washed with water (2×), and ether (1×). The residue is treated with 1N HCl solution and is extracted with EtOAc. The organic layer is then washed with water, dried with MgSO4 and concentrated to give the title compound as an orange oil.

reactant | 5-(4-benzyl-2-benzyloxyphenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 2.16 mmol, 1.1 g | C(C1=CC=CC=C1)C1=CC(=C(C=C1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O)OCC1=CC=CC=C1 | C27H32N2O4SSi
reactant | TBAF | 4 mmol, 1.0 M, 4.0 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 5-(4-Benzyl-2-benzyloxyphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)C1=CC(=C(C=C1)N1CC(NS1(=O)=O)=O)OCC1=CC=CC=C1 | C22H20N2O4S
